US05328911
7-Methyl-2-(1-propynyl)-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine
2-Ethylthio-7-methyl-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine p0 3-{(2'-Carboxybiphenyl-4-yl)methyl{-2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine

reactant | 2-Ethylthio-7-methyl-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine | C(C)SC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7S
reactant | 2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine | C(C)C1=NC=2C(=NC=CC2C)N1 | C9H11N3
product | 7-Methyl-2-(1-propynyl)-3-[{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1)N(C(=N2)C#CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C24H19N7
